US08563565B2
(1) Synthesis of 3-bromo-2-(bromomethyl)-6-methoxy-4-methylpyridine
A mixture of 3-bromo-6-methoxy-2,4-dimethylpyridine obtained in Preparation Example 22 (200 mg), NBS (165 mg) and benzoyl peroxide (6.73 mg) was heated under reflux in a carbon tetrachloride solvent (4 mL) for two hours. The reaction mixture was cooled to room temperature and then filtered. The resulting filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 0% to 5%) to give the title compound (126 mg).

reactant | 3-bromo-6-methoxy-2,4-dimethylpyridine | BrC=1C(=NC(=CC1C)OC)C | C8H10BrNO
reactant | NBS | 165 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 6.73 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 4 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromo-2-(bromomethyl)-6-methoxy-4-methylpyridine | 126 mg | BrC=1C(=NC(=CC1C)OC)CBr | C8H9Br2NO
